US08980877B2
4 M HCl in dioxane (1.90 ml) was added dropwise to a solution of (E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (360 mg, 0.78 mmol) in DCM (14 ml). The mixture was stirred at RT overnight. The formed precipitate was filtered off, washed with DCM, dried under vacuum to give (E)-3-[4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide (154 mg, hydrochloride salt) as a white solid.

reactant | HCl | 4 M | Cl | ClH
reactant | (E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.78 mmol, 360 mg | C(C)(C)(C)OC(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C24H30N2O7
solvent | dioxane | 1.90 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 14 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide | 154 mg | O=C1CC2(CNC2)OC2=CC=C(C=C12)/C=C/C(=O)NO | C14H14N2O4
